US07560558B2
2-Iodo-6-picolin-3-ol (10 g), 4-chloro-7-benzyloxy-6-methoxyquinoline (6.8 g), and 4-(N,N-dimethylamino)-pyridine (12.2 g) were dissolved in 1,2-dichlorobenzene (400 ml) to prepare a solution, and the mixture was stirred at 125° C. overnight. The reaction solution was cooled to room temperature, and the solvent was then removed by distillation under the reduced pressure. Water was added to the residue, the mixture was extracted with chloroform, and the chloroform layer was then washed with water and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure. The residue was purified by column chromatography using chloroform-acetone to give 7-benzyloxy-4-(2-iodo-6-methyl-pyridin-3-yloxy)-6-methoxy-quinoline (5.2 g, yield 31%).

reactant | 2-Iodo-6-picolin-3-ol | 10 g | IC1=NC(=CC=C1O)C | C6H6INO
reactant | 4-chloro-7-benzyloxy-6-methoxyquinoline | 6.8 g | ClC1=CC=NC2=CC(=C(C=C12)OC)OCC1=CC=CC=C1 | C17H14ClNO2
catalyst | 4-(N,N-dimethylamino)-pyridine | 12.2 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | 1,2-dichlorobenzene | 400 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 7-benzyloxy-4-(2-iodo-6-methyl-pyridin-3-yloxy)-6-methoxy-quinoline | 5.2 g, yield 31% | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)OC=1C(=NC(=CC1)C)I)OC | C23H19IN2O3
